US06071899
Triethylamine (2 ml) was added to a solution of (4-methylthio-2-oxo-azetidin-1-yl)acetic acid (1.67 g) in dry chloroform (15 ml) cooled to -10° C. After 5 mins ethyl chloroformate (1.6 ml) was added, then after a further 5 mins a solution of O-benzylhydroxylamine free base (1.67 g) in chloroform was added. The solution was allowed to warm to room temperature and stirred for 16 hours then washed with brine, dried (MgSO4) and evaporated. Chromatography of the residue on silica gel (petroleun ether/ethyl acetate) gave N-benzyloxy-(4-methylthio-2-oxo-azetidin-1-yl)acetamide as a clear gum (22% yield).

reactant | Triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | (4-methylthio-2-oxo-azetidin-1-yl)acetic acid | 1.67 g | CSC1CC(N1CC(=O)O)=O | C6H9NO3S
reactant | ethyl chloroformate | 1.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | O-benzylhydroxylamine | 1.67 g | C(C1=CC=CC=C1)ON | C7H9NO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzyloxy-(4-methylthio-2-oxo-azetidin-1-yl)acetamide | 22% yield | C(C1=CC=CC=C1)ONC(CN1C(CC1SC)=O)=O | C13H16N2O3S
